US04937341
(3aS-cis)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indol-5-yl 4-morpholinylcarbamate
Eseroline (3 g) and 1,1'-carbonyldiimidazole (2.3 g) were heated in 150 ml dry tetrahydrofuran (THF) at reflux under nitrogen for one hour. After cooling to +5° C., 0.5 g imidazole was added and a solution of 4-aminomorpholine (3 g) in 30 ml dry THF was dropped into the mixture within 30 minutes. When the addition was complete the mixture was warmed to room temperature and stirred for five hours and thereafter stored in a refrigerator overnight. The THF was evaporated and the oily residue purified by chromatography on neutral alumina with CH2Cl2 /MeOH (95:5). The resulting oil was crystallized from ether/hexane to give a solid (0.6 g) which was combined with 0.5 g obtained from similar experiments and recrystallized from the same solvent mixture. This yielded 1.0 g of crystals, m.p. 115°-117° C.

reactant | Eseroline | 3 g | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)O)C)C | C13H18N2O
reactant | 1,1'-carbonyldiimidazole | 2.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazole | 0.5 g | N1C=NC=C1 | C3H4N2
reactant | 4-aminomorpholine | 3 g | NN1CCOCC1 | C4H10N2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | O1CCCC1 | C4H8O
product | (3aS-cis)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indol-5-yl 4-morpholinylcarbamate | 0.6 g | N1(CCOCC1)NC(OC=1C=C2[C@]3([C@@H](N(C2=CC1)C)N(CC3)C)C)=O | C18H26N4O3
